US04407930
D. 2-Amino-5-nitro-p-cresol
To 120 ml of stirring concentrated sulfuric acid at room temperature was added 12.0 g (0.0252 mol) of 5-nitro-2-p-toluenesulfonamido-p-cresol tosylate. Complete solution occurred without exotherm in 15 minutes. After stirring 11/2 hours the reaction was poured into 1500 ml of water and extracted with ethyl acetate. The organic layer was washed with aqueous sodium carbonate, dried over magnesium sulfate and concentrated under reduced pressure to yield 3.6 g (85 percent) of pure product as an orange solid.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 5-nitro-2-p-toluenesulfonamido-p-cresol tosylate | 0.0252 mol, 12.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)OC1=CC(=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)C)C)[N+](=O)[O-] | C21H20N2O7S2
solvent | water | 1500 ml | O | H2O
product | 2-Amino-5-nitro-p-cresol | 3.6 g, 85 percent | NC1=CC(=C(C=C1O)[N+](=O)[O-])C | C7H8N2O3
